US04336199
A. 5-(2,4-Dichlorophenyl)-2-furancarboxaldehyde Oxime
A mixture of 5-(2,4-dichlorophenyl)-2-furancarboxaldehyde (635 g, 2.63 moles), anhydrous sodium acetate (432 g, 5.26 moles), hydroxylamine hydrochloride (366 g, 5.26 moles), SDA #30 (9184 ml) and water (918 ml), was refluxed for 51/3 hours and allowed to stand overnight. The mixture was added to ice/H2O (42 liters), stirred 1 hour and filtered. The grayish-tan solid was washed with water (10 liters), filtered and dried at 65° to 660 g (98%).

reactant | 5-(2,4-dichlorophenyl)-2-furancarboxaldehyde | 2.63 moles, 635 g | ClC1=C(C=CC(=C1)Cl)C1=CC=C(O1)C=O | C11H6Cl2O2
reactant | sodium acetate | 5.26 moles, 432 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 5.26 moles, 366 g | Cl.NO
solvent | water | 918 ml | O | H2O
product | 5-(2,4-Dichlorophenyl)-2-furancarboxaldehyde Oxime | ClC1=C(C=CC(=C1)Cl)C1=CC=C(O1)C=NO | C11H7Cl2NO2
